Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Vicodin
 
Attending: ___
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
None this hospitalization

 
History of Present Illness:
Ms ___ is a ___ year old female with hisotory of living 
unrelated kideny transplant ___ secondary to 
IDDM/hypertension, presenting with watery diarrhea and acute 
kidney injury. She was sent in from her nephrologist in 
___ (Dr. ___.  

Over the past ___ weeks, she has been having watery diarrhea (up 
to 20 episodes per day). She had been seen by her primary care 
physician as well as nephrologist over the past two-three weeks. 
On lab evaluation creatinine rose to 1.4 (baseline 0.9-1.2 per 
reports). She was subsequently seen at ___ and ___ 
IVF, as thought that this was pre-renal secondary to diarrhea. 
Patient continued to have further diarrhea since that time. 
Repeat creatinine was 1.7. As a result, nephrologist referred 
her to ___ for further evaluation of the chronic diarrhea as 
well as the ___ given that she is on immunosuppression (cellcept 
and prograf).  
Of note, as part of her outpatient workup for the diarrhea she 
was tested for C. diffile x 2. Both were negative. She was 
started empirically on metronidazole this week. She had also 
been on immodium over these three weeks with no improvement of 
the diarrhea. 

She denies any travel history, she denies any new foods. The 
diarrhea wakes her up at night. She has lost ___ due to 
this watery diarrhea. 

She denies abdominal pain, hematochezia, melena. Denies fevers 
chills, cramps. She does note a loss of appetite. Patient did 
have a chronic cough prior to the onset of the diarrhea. She 
does note that she was on antibiotics for the cough prior to the 
onset of the diarrhea.  

Vitals in the ED: 98.6 78 155/81 16 100% RA  

Labs notable for: Cr 1.4, H/H 10.9/32.2 (baseline). UA with 
leuks and bacteria. Renal ultrasound showed "Parvus tardus 
waveform within the intrarenal arteries with normal resistive 
indices, normal main renal artery, and patent main renal vein is 
worrisome for main renal artery stenosis near the renal hilum."  

Patient given: IVF run at 125 ml/hr.
 
Past Medical History:
PMH: IDDM, HTN, hyperchol, h/o TIA, ESRD
PSH: R tunneled HD line ___, D&C for heavy menstrual bleeding, 
s/p LURT ___
 
Social History:
___
Family History:
- mother - hypertension.  
- Father - hypertension.  
- one brother- healthy.  
She has four children, all of whom are healthy, there are ages 
in their ___.
 
Physical Exam:
admission: 
==========
Vitals - T: 97.5 BP: 121/67 HR: 87 RR: 16 02 sat: 100% RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly, well healed scar in 
RLQ, no tenderness of renal transplant.  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

discharge: 
==========
Vitals - 98.2   98.8   108-123 / 59   18   70s-80s   1380/1480, 
BMx1. BRx3 since midnight. 
BG - FSG 92 this am, Glood glucose on CMP 32.
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly, well healed scar in 
RLQ, no tenderness of renal transplant.  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

 
Pertinent Results:
admission: 
----------

___ 09:42PM BLOOD WBC-7.6 RBC-3.75* Hgb-10.9* Hct-32.2* 
MCV-86 MCH-29.0 MCHC-33.8 RDW-13.9 Plt ___
___ 09:42PM BLOOD Neuts-81.0* Lymphs-11.5* Monos-5.5 
Eos-1.7 Baso-0.3
___ 06:55AM BLOOD ___ PTT-35.3 ___
___ 09:42PM BLOOD Glucose-113* UreaN-21* Creat-1.4* Na-136 
K-4.4 Cl-101 HCO3-24 AnGap-15
___ 12:55PM BLOOD Amylase-59
___ 12:55PM BLOOD Lipase-32
___ 06:55AM BLOOD LD(LDH)-146
___ 12:55PM BLOOD Calcium-8.8 Phos-3.2 Mg-1.3*

tacrolimus levels:
------------------

___ 06:55AM BLOOD tacroFK-7.4
___ 06:05AM BLOOD tacroFK-8.2
___ 05:50AM BLOOD tacroFK-7.0

microbiology:
-------------

___ 06:05AM BLOOD EBV PCR, QUANTITATIVE, WHOLE BLOOD-PND
___ 08:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD
___ 08:00PM URINE RBC-1 WBC-11* Bacteri-MANY Yeast-NONE 
Epi-0

___ 8:00 pm URINE      SOURCE: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 5:15 am STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND.

___ 6:55 am Immunology (CMV)

   CMV Viral Load (Final ___: 
      CMV DNA not detected.

___ 06:05 

EBV PCR, QUANTITATIVE, WHOLE BLOOD 
  Test                          Result              Reference 
Range/Units
SOURCE                        Whole Blood         
EBV DNA, QN PCR               <200                <200 copies/mL

___ 13:38 
ADENOVIRUS PCR 
  Test                          Result              Reference 
Range/Units
SOURCE                        Serum               
ADENOVIRUS DNA, QN PCR        <500                <500 copies/mL

                            **FINAL REPORT ___

   CMV IgG ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgG ANTIBODY BY EIA. 
      <4 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 


   CMV IgM ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 
      INTERPRETATION:  NO ANTIBODY DETECTED. 
 
imaging: 
--------

___ CT ab/p: 
1. Mesenteric lymphadenopathy and fluid within the proximal 
colon, 
nonspecific, cannot exclude enteritis if clinically suspected.  
However, small bowel loops appear normal in morphology.  
Mesenteric lymphadenopathy with trace surrounding fat stranding 
may represent mesenteric panniculitis. Followup examination in 6 
months is recommended in order to ensure resolution. 
2. Atrophied native kidneys with several punctate 
calcifications, either 
representing nonobstructing stones or vascular calcifications. 
Unremarkable transplant kidney. 
3. Otherwise unremarkable non contrast CT examination of the 
abdomen and 
pelvis. 

___ ABDOMINAL ULTRASOUND: 
The right iliac fossa transplant renal morphology is normal.  
Specifically, the cortex is of normal thickness and 
echogenicity,pyramids are normal, there is no pelvi-infundibular 
thickening, and renal sinus fat is normal.  There is no 
hydronephrosis. There is no perinephric fluid collection.   
The resistive index of intrarenal arteries ranges from 0.66 to 
0.71, within the normal range. Acceleration time of the main 
renal artery has normalized and the parvus et tardus waveform 
has resolved.  While some delay in late systole is observed, the 
initial systolic upstroke is brisk. The peak systolic velocity 
of the main renal artery has decreased from 122 to 81 cm/s. 
Vascularity is symmetric throughout transplant. The transplant 
renal vein is patent and shows normal waveform.   
IMPRESSION:    
Interval resolution of parvus et tardus waveform in the sampled 
intrarenal arteries.  Main renal artery peak systolic velocity 
has also decreased from 122 to 81 cm/s. 

discharge labs: 
---------------

___ 05:50AM BLOOD WBC-8.2 RBC-3.60* Hgb-10.5* Hct-30.7* 
MCV-85 MCH-29.1 MCHC-34.1 RDW-14.1 Plt ___
___ 05:50AM BLOOD Glucose-32* UreaN-12 Creat-1.0 Na-141 
K-4.4 Cl-106 HCO3-24 AnGap-15
___ 05:50AM BLOOD Calcium-9.6 Phos-4.4 Mg-1.___ yo F with PMHx of ESRD s/p LURT in ___ on tacrolimus/MMF, 
IDDM, HTN who presents with watery diarrhea and rise in 
creatinine, and >100,000 GNRs in urine.  

# ESRD s/p LURT: Creatinine downtrended to 1.0 from 1.7 at ___ 
with IVF resuscitation. Rise in creatinine likely pre-renal from 
diarrhea and dehydration with perhaps a contribution from a UTI. 
Her MMF was transitioned to three times daily. Her tacrolimus 
was continued at 1mg PO q12hr. 

# Diarrhea: Infectious work-up negative (c. diff, e. coli, 
yersinia, campylobacter, salmonella, shigella). CMV viral load 
was negative. MMF transitioned to three times a day. Does need 
outpatient screening colonoscopy. EBV Viral load < 200. 
Adenovirus PCR negative as well. 

# Urinary Tract Infection: Klebseilla from urine culture on 
admission. She was started on ceftriaxone and transitioned to 
ciprofloxacin based on sensitivities. She will complete a course 
on ___.   
 
# Insulin dependent diabetes mellitus: Patient had several 
episodes of hypoglycemia so she was instructed to closely 
monitor her blood sugars in addition to decreased her lantus.  

>> TRANSITIONAL ISSUES: 
* Mesenteric Lymphadenopathy: Please recheck EBV viral in 2 
weeks. Patient may need to have repeat CT scan in ___ months to 
evaluate for interval progression. 
* Immunosuppression: MMF transitioned to 500mg po three times 
daily, tacrolimus continued at home dose 1mg PO q12hr
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Glargine 12 Units Breakfast
Glargine 12 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
2. Tacrolimus 1 mg PO Q12H 
3. Mycophenolate Mofetil 1000 mg PO BID 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Aspirin 81 mg PO QHS 
7. Simvastatin 20 mg PO QPM 
8. DiphenhydrAMINE 50 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Aspirin 81 mg PO QHS 
2. DiphenhydrAMINE 50 mg PO QHS:PRN insomnia 
3. Glargine 8 Units Breakfast
Glargine 8 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Mycophenolate Mofetil 500 mg PO TID 
RX *mycophenolate mofetil 500 mg 1 tablet(s) by mouth three 
times daily Disp #*42 Tablet Refills:*0
6. Omeprazole 20 mg PO DAILY 
7. Tacrolimus 1 mg PO Q12H 
8. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*23 Tablet Refills:*0
9. Simvastatin 20 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: 
1. diarrhea
2. status-post renal transplant
3. end stage renal disease 
4. diabetes mellitus, insulin dependent 
5. hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at the ___ 
___. You were admitted with diarrhea. We 
checked your stool for evidence of infection and did not find 
any. We think your diarrhea is from the mycophenolate so we 
switched your dosing to 500 mg three times daily. This helped 
improve your diarrhea. We talked to Dr. ___ agreed with 
this change. He would like to see you within one to two weeks of 
discharge. 

You were also found to have a urinary tract infection for which 
you were started on antibiotics. You will take antibiotics 
through ___. 

You had episodes of low blood sugar in the hospital so we 
decreased your long-acting insulin. 

We wish you all the best, 
Your ___ Team 
 
Followup Instructions:
___